US05521177
b) Tert.butyl 4'-[(2-n-propyl-4-methyl-6-amino-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate
Prepared analogously to Example 1b from tert.butyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl] -biphenyl-2-carboxylate and methylamine.

reactant | tert.butyl 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl] -biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C37H35N3O4
reactant | methylamine | CN | CH5N
product | Tert.butyl 4'-[(2-n-propyl-4-methyl-6-amino-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)N | C29H33N3O2
